US07863283B2
(RS)-S-[3-({[6-Bromo-4-(2-hydroxyethylamino)quinazolin-7-yl]oxy}methyl)-phenyl]-S-methylsulphoximide
According to GWP 6, (RS)-S-[3-({[6-bromo-4-(2-hydroxyethylamino)quinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide (67 mg, 0.13 mmol) is reacted with sodium ethoxide (29 mg, 0.46 mmol) in ethanol (3 mL). After cooling to room temperature, the reaction mixture is admixed with brine and stirred for 30 minutes and the resulting precipitate is filtered off with suction to leave the desired product in 81% yield (47 mg).

reactant | (RS)-S-[3-({[6-bromo-4-(2-hydroxyethylamino)quinazolin-7-yl]oxy}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide | 0.13 mmol, 67 mg | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C)NCCO | C21H23BrN4O5S
reactant | sodium ethoxide | 0.46 mmol, 29 mg | [O-]CC.[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | (RS)-S-[3-({[6-Bromo-4-(2-hydroxyethylamino)quinazolin-7-yl]oxy}methyl)-phenyl]-S-methylsulphoximide | 81% yield | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=C(C=CC1)S(=O)(=N)C)NCCO | C18H19BrN4O3S
